US08211897B2
4-Acetyl-6-methoxyisochroman-1,3-dione.
Following a literature procedure (Ind. J. Chem. Sec. B, 1986, 25B, 640-643), 2-carboxymethyl-4-methoxybenzoic acid (1.0 g; 4.8 mmol) was dissolved in a mixture of pyridine (1.4 mL) and acetic anhydride (8.6 mL; 9.3 g; 91 mmol) then stirred for 3 hours, during which time a solid had formed. The suspension was diluted with diethyl ether, filtered and the filter cake washed with diethyl ether. Yield: 905 mg (81%) of 4-acetyl-6-methoxyisochroman-1,3-dione.

reactant | Sec | N[C@@H](C[SeH])C(=O)O | C3H7NO2Se
reactant | 2-carboxymethyl-4-methoxybenzoic acid | 4.8 mmol, 1.0 g | C(=O)(O)CC1=C(C(=O)O)C=CC(=C1)OC | C10H10O5
reactant | acetic anhydride | 91 mmol, 8.6 mL, 9.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.4 mL | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Acetyl-6-methoxyisochroman-1,3-dione | C(C)(=O)C1C(OC(C2=CC=C(C=C12)OC)=O)=O | C12H10O5
